*****
* FerriteBead_Murata.LIB
* Generated by the Micro-Cap Model program Version 11.0.1.2.
*****

*

*Murata BLM21AG102SH1D
.SUBCKT BLM21AG102SH1D  1 2 
L1 1 3 1.798u 
R1 1 3 800.67 
C1 1 3 1.24p 
R2 3 4 347.92 
L2 3 4 5.019u 
C2 3 4 4.024p 
RDC 4 2 1 
.ENDS BLM21AG102SH1D *
;$SpiceType=PSPICE
